US06762180B1
(4) N-cyclohexyl-p-phenylenediamine
Prepared from 1-fluoro-4-nitrobenzene and cyclohexylamine

reactant | 1-fluoro-4-nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
product | N-cyclohexyl-p-phenylenediamine | C1(CCCCC1)NC1=CC=C(C=C1)N | C12H18N2
